US08278304B2
1-(3,4-Difluorophenyl)methanamine.
To THF (18 ml) was added cerium(III) chloride (2.84 g, 11.50 mmol) and the solution was purged, backfilled with nitrogen and warmed to 45° C. for 3 h. The reaction was cooled to rt and 3,4-difluorobenzonitrile (0.8 g, 5.75 mmol) was added. The solution was cooled further to −25° C. and methyl lithium/lithium bromide (1.5 M in diethyl ether, 9.59 ml, 14.38 mmol) was added slowly. The reaction was stirred at this temperature for 1 h and ammonium hydroxide solution (28% in water, 4.00 ml, 28.8 mmol) was added and the mixture was allowed to sit overnight at rt. The cerium salts were filtered off and washed with THF. The obtained THF solution was dried with MgSO4, filtered and concentrated. The product was diluted with ethyl ether and THF and HCl (4M in dioxane, 1.438 mL, 5.75 mmol) were added. The residue was concentrated, diluted with hexane and filtered affording the title compound.

reactant | cerium(III) chloride | 11.50 mmol, 2.84 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | 3,4-difluorobenzonitrile | 5.75 mmol, 0.8 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | methyl lithium lithium bromide | 14.38 mmol, 1.5 M, 9.59 ml | C[Li].[Br-].[Li+]
reactant | ammonium hydroxide | 28.8 mmol, 4.00 ml | [OH-].[NH4+]
reactant | HCl | 5.75 mmol, 4M, 1.438 mL | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 1-(3,4-Difluorophenyl)methanamine | FC=1C=C(C=CC1F)CN | C7H7F2N
